US09120777B2
C) 5-Bromo-6-(4-fluorophenyl)-2-isopropoxynicotinonitrile
2-Bromopropane (3.32 mL) was added to a mixture of 5-bromo-6-(4-fluorophenyl)-2-hydroxynicotinonitrile (5.18 g), potassium carbonate (4.89 g), and DMF (30 mL), and the resultant mixture was stirred at 80 C for 30 minutes. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (5.92 g)

reactant | 2-Bromopropane | 3.32 mL | BrC(C)C | C3H7Br
reactant | 5-bromo-6-(4-fluorophenyl)-2-hydroxynicotinonitrile | 5.18 g | BrC=1C(=NC(=C(C#N)C1)O)C1=CC=C(C=C1)F | C12H6BrFN2O
reactant | potassium carbonate | 4.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 5-Bromo-6-(4-fluorophenyl)-2-isopropoxynicotinonitrile | 5.92 g | BrC=1C(=NC(=C(C#N)C1)OC(C)C)C1=CC=C(C=C1)F | C15H12BrFN2O
